US07897766B2
Benzothiazole-6-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and benzothiazole-6-carboxylic acid (Maybridge); yield 99 mg, 0.28 mmol (77%) according to methods A and C: 1H NMR (300 MHz, methanol-d4) δ 1.99 (d, J=14 Hz, 2H), 2.22 (s, 1H), 2.37 (d, J=14 Hz, 2H), 2.50 (s, 2H), 3.59 (s, 2H), 3.70 (s, 4H), 4.45 (s, 1H), 8.03 (dd, J=8, 2 Hz, 1H), 8.16 (d, J=8 Hz, 1H), 8.62 (d, J=2 Hz, 1H), 9.41 (s, 1H); MS (DCI/NH3) m/z 314 (M+H)+; Anal. C17H19N3OS.HCl0.3H2O: C, H, N.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@@H](C(CC(C1)C3)C2)N
reactant | benzothiazole-6-carboxylic acid | S1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO2S
reactant | NH3 | N | H3N
product | Benzothiazole-6-carboxylic acid(4s)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@@H](C(CC(C1)C3)C2)NC(=O)C2=CC3=C(N=CS3)C=C2 | InChI=1S/C17H19N3OS.ClH/c21-17(11-1-2-14-15(5-11)22-9-18-14)19-16-12-3-10-4-13(16)8-20(6-10)7-12;/h1-2,5,9-10,12-13,16H,3-4,6-8H2,(H,19,21);1H/t10?,12?,13?,16-;
